US07838674B2
a) 1-Bromo-3-fluoro-5-(2-methoxy-ethoxy)-benzene
3-Bromo-5-fluoro-phenol (5.0 g, 26.2 mmol), 2-bromoethylether (4.0 g, 28.8 mmol) and K2CO3 (4.4 g, 31.4 mmol) are mixed in 50 ml DMF and stirred at 50 C overnight. Addition of aqueous NaHCO3 solution and extraction into ethyl acetate yields the title compound.

reactant | 3-Bromo-5-fluoro-phenol | 26.2 mmol, 5.0 g | BrC=1C=C(C=C(C1)F)O | C6H4BrFO
reactant | 2-bromoethylether | 28.8 mmol, 4.0 g | BrCCOCCBr | C4H8Br2O
reactant | K2CO3 | 31.4 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Bromo-3-fluoro-5-(2-methoxy-ethoxy)-benzene | BrC1=CC(=CC(=C1)OCCOC)F | C9H10BrFO2
